US07612211B2
D. 2-bromomethyl-5-[2-(2-hydroxy-ethanesulfonyl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester
A mixture of 2-[2-(2-bromomethyl-1H-benzoimidazol-5-yl)-benzenesulfonyl]-ethanol (0.124 g, 0.314 mmol), Boc2O (0.151 g, 0.690 mmol), Et3N (0.131 mL, 0.942 mmol), and DMAP (0.004 g, 0.0314 mmol) in CH2Cl2 was stirred at rt for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by chromatography (silica, EtOAc: hexanes, 1:2) to afford the title compound as a yellow oil (0.123 g, 79%).

reactant | 2-[2-(2-bromomethyl-1H-benzoimidazol-5-yl)-benzenesulfonyl]-ethanol | 0.314 mmol, 0.124 g | BrCC1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)CCO | C16H15BrN2O3S
reactant | Boc2O | 0.690 mmol, 0.151 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 0.942 mmol, 0.131 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.0314 mmol, 0.004 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-bromomethyl-5-[2-(2-hydroxy-ethanesulfonyl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.123 g, 79% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)CCO)CBr | C21H23BrN2O5S
